US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (100 mg) and 4-bromo-3,N-dimethyl-N-(2-morpholin-4-yl-ethyl)-benzamide (114 mg) instead of 4-chloropicolinic acid t-butylamide, in the same manner as Example 1-D-07, a crude product of 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-3,N-dimethyl-N-(2-morpholin-4-yl-ethyl)-benzamide was obtained, and further PMB group was removed according to the above Deprotection method 3, to obtain the desired compound (D-205) as a brown oil (68 mg, 66%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 100 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 4-bromo-3,N-dimethyl-N-(2-morpholin-4-yl-ethyl)-benzamide | 114 mg | BrC1=C(C=C(C(=O)N(CCN2CCOCC2)C)C=C1)C | C15H21BrN2O2
product | 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-3,N-dimethyl-N-(2-morpholin-4-yl-ethyl)-benzamide | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C3=C(C=C(C(=O)N(CCN2CCOCC2)C)C=C3)C)CC3=CC=C(C=C3)OC)C=C1 | C45H53N9O5
